US07842685B2
To a thick slurry of p-methylbenzenesulfonylhydrazine (0.036 g, 0.19 mmol) and 3-(2-(2-fluoro-4-methylphenyl)thiazolo[5,4-b]pyridine-5-yl)-3-phenylcyclobutanone (0.050 g, 0.13 mmol) in 0.3 mL MeOH under nitrogen was added a pre-mixed suspension of sodium cyanoborohydride (0.016 g, 0.26 mmol) and zinc chloride, 0.5 M solution in THF (0.26 mL, 0.13 mmol) in 0.26 mL MeOH, via pipette. The reaction mixture was sealed and heated to 70° C. for 3 h. The reaction mixture was adsorbed onto 600 mg silica gel and dried. Purification by silica gel chromatography, 12 g, 0-50% EA/hexanes provided 2-(2-fluoro-4-methylphenyl)-5-(1-phenylcyclobutyl)-thiazolo[5,4-b]pyridine as a light yellow oil that slowly solidified. MS (ESI) m/z: calculated: 374.1; Observed: 375.1 (M++1).

reactant | p-methylbenzenesulfonylhydrazine | 0.19 mmol, 0.036 g | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
reactant | 3-(2-(2-fluoro-4-methylphenyl)thiazolo[5,4-b]pyridine-5-yl)-3-phenylcyclobutanone | 0.13 mmol, 0.050 g | FC1=C(C=CC(=C1)C)C=1SC2=NC(=CC=C2N1)C1(CC(C1)=O)C1=CC=CC=C1 | C23H17FN2OS
reactant | sodium cyanoborohydride | 0.26 mmol, 0.016 g | C(#N)[BH3-].[Na+]
reactant | THF | 0.13 mmol, 0.26 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.3 mL | CO | CH4O
solvent | MeOH | 0.26 mL | CO | CH4O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 2-(2-fluoro-4-methylphenyl)-5-(1-phenylcyclobutyl)-thiazolo[5,4-b]pyridine | FC1=C(C=CC(=C1)C)C=1SC2=NC(=CC=C2N1)C1(CCC1)C1=CC=CC=C1 | C23H19FN2S
